US07259183B2
Preparation of 5-Chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-chloro-3-trifluoromethyl-phenyl)-ethyl]-amide
To a solution of 98 mg (0.5 mmol) of 5-chloro-1H-indole-7-carboxylic acid and 161 mg of TBTU (0.5 mmol) in 6 ml DMF, were added 0.43 ml (2.51 mmol) of N,N-diisopropylethyl amine. After stirring for 5 min at rt, 200 mg (0.54 mmol) of (4-tert-butyl-benzyl)-[2-(4-chloro-3-trifluoromethyl-phenyl)-ethyl]-amine in 2 ml DMF were added. After stirring for 3 h at rt, the reaction mixture was diluted with 80 ml water and extracted with EtOAc (2×). The combined organic phases were washed with water and brine, dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (40 g silica gel; DCM/heptane 9:1) to give 206 mg white solid (69%). MS (EI) 546.2 (M)+.

reactant | 5-chloro-1H-indole-7-carboxylic acid | 0.5 mmol, 98 mg | ClC=1C=C2C=CNC2=C(C1)C(=O)O | C9H6ClNO2
reactant | TBTU | 0.5 mmol, 161 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 2.51 mmol, 0.43 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (4-tert-butyl-benzyl)-[2-(4-chloro-3-trifluoromethyl-phenyl)-ethyl]-amine | 0.54 mmol, 200 mg | C(C)(C)(C)C1=CC=C(CNCCC2=CC(=C(C=C2)Cl)C(F)(F)F)C=C1 | C20H23ClF3N
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 80 ml | O | H2O
product | 5-Chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-chloro-3-trifluoromethyl-phenyl)-ethyl]-amide | 206 mg, 69% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=C(C=C3C=CNC23)Cl)CCC2=CC(=C(C=C2)Cl)C(F)(F)F)C=C1 | C29H27Cl2F3N2O
